US08877801B2
To a solution of 3-(4-bromophenoxy)-6-methoxybenzo[b]thiophene 1,1-dioxide (2.47 g, 6.73 mmol) in THF (90 mL) was added DIBAL-H (1.0 M in DCM, 33.6 mL, 33.6 mmol) in one portion. The mixture was heated to 75° C. for 2 h after which time the reaction was cooled to room temperature and quenched with EtOAc (32.9 mL, 336 mmol). The resulting solution was stirred for 10 min before carefully adding 75 mL of water and potassium sodium tartrate (33.100 g, 117 mmol). The mixture was vigorously stirred for 10 min and diluted with 75 mL EtOAc. The organic layer was collected, dried with anhydrous MgSO4 and concentrated in vacuo to afford 3-(4-bromophenoxy)-6-methoxybenzo[b]thiophene (1.9 g, 5.67 mmol, 84% yield) as a white solid which was used without further purification. 1H NMR (400 MHz, CDCl3) δ ppm=3.81 (s, 3H), 6.46 (s, 1H), 6.90 (d, J=9.09 Hz, 3H), 7.16-7.22 (m, 1H), 7.31-7.40 (m, 2H), 7.46 (d, J=9.09 Hz, 1H). LC/MS (m/z, MH+): 336.8.

reactant | 3-(4-bromophenoxy)-6-methoxybenzo[b]thiophene 1,1-dioxide | 6.73 mmol, 2.47 g | BrC1=CC=C(OC=2C3=C(S(C2)(=O)=O)C=C(C=C3)OC)C=C1 | C15H11BrO4S
reactant | DIBAL-H | 33.6 mmol, 1.0 M, 33.6 mL | CC(C)C[AlH]CC(C)C
reactant | water | 75 mL | O | H2O
reactant | potassium sodium tartrate | 117 mmol, 33.100 g | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 336 mmol, 32.9 mL | CCOC(=O)C | C4H8O2
product | 3-(4-bromophenoxy)-6-methoxybenzo[b]thiophene | 5.67 mmol, 1.9 g, 84% yield | BrC1=CC=C(OC=2C3=C(SC2)C=C(C=C3)OC)C=C1 | C15H11BrO2S
